US04618697
A mixture of 2-bromo-1,1-dimethoxy-1-(4-methoxyphenyl)-propane (2.8 g; 10 mmol), N-methylmorpholine (24 ml) and water (16 ml) is heated at 95° C., under stirring for 9 h. The reaction mixture is worked up as described in example 1a to give 2-(4-methoxyphenyl)-propionic acid (1.79 g; 9.6 mmol; yield 96%), m.p. 56°-57° C. (In this experiment, N-methyl-morpholine acts as weak base as well as dipolar aprotic diluent).

reactant | 2-bromo-1,1-dimethoxy-1-(4-methoxyphenyl)-propane | 10 mmol, 2.8 g | BrC(C(C1=CC=C(C=C1)OC)(OC)OC)C | C12H17BrO3
reactant | N-methylmorpholine | 24 ml | CN1CCOCC1 | C5H11NO
reactant | water | 16 ml | O | H2O
product | 2-(4-methoxyphenyl)-propionic acid | 9.6 mmol, 1.79 g, yield 96% | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
